US07576115B2
Synthesis of methyl 4-[(2-{1-[2-bromo-5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonyl]benzoate
To a suspension of 2-bromo-5-(4-t-butylphenyl)-4-hydroxy-3-methylcarbonylthiophene (1.00 g, 2.83 mmol) synthesized in Reference Synthetic Example 55 and 4-hydrazinocarbonylmethylbenzoate (550 mg, 2.83 mmol) in isopropyl alcohol (28.3 mL), tosylic acid monohydrate (146 mg, 0.85 mmol) was added, and the mixture was heated with reflux for about 1 hour. The reaction solution was concentrated, and then purified with a silica gel column chromatography (chloroform, and then chloroform/ethyl acetate=95/5) to obtain the desired product as a yellow solid (935 mg, yield 62%).

reactant | 2-bromo-5-(4-t-butylphenyl)-4-hydroxy-3-methylcarbonylthiophene | 2.83 mmol, 1.00 g | BrC=1SC(=C(C1C(=O)C)O)C1=CC=C(C=C1)C(C)(C)C | C16H17BrO2S
reactant | 4-hydrazinocarbonylmethylbenzoate | 2.83 mmol, 550 mg | N(N)C(=O)CC1=CC=C(C(=O)[O-])C=C1
reactant | tosylic acid monohydrate | 0.85 mmol, 146 mg | O.S(=O)(=O)(O)C1=CC=C(C)C=C1
reactant | chloroform ethyl acetate | C(Cl)(Cl)Cl.C(C)(=O)OCC
solvent | isopropyl alcohol | 28.3 mL | C(C)(C)O | C3H8O
product | methyl 4-[(2-{1-[2-bromo-5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonyl]benzoate | 935 mg, yield 62% | BrC=1SC(=C(C1C(C)=NNC(=O)C1=CC=C(C(=O)OC)C=C1)O)C1=CC=C(C=C1)C(C)(C)C | C25H25BrN2O4S
